US07560558B2
Compound 417: 3-[7-Methoxy-4-(2-methyl-quinolin-3-yloxy)-quinolin-6-yloxy]-propane-1,2-diol
7-Methoxy-4-(2-methyl-quinolin-3-yloxy)-6-oxiranylmethoxy-quinoline (59 mg) was dissolved in dichloromethane (2 ml) to prepare a solution. Trifluoroacetic acid (2 ml) was added dropwise to the solution at 0° C., and the mixture was then stirred at room temperature for 4 hr. The reaction solution was made alkaline by the addition of 1 N sodium hydroxide, and the mixture was extracted with chloroform. The chloroform layer was washed with water and was then dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-methanol to give the title compound (18 mg, yield 29%).

reactant | 7-Methoxy-4-(2-methyl-quinolin-3-yloxy)-6-oxiranylmethoxy-quinoline | 59 mg | COC1=C(C=C2C(=CC=NC2=C1)OC=1C(=NC2=CC=CC=C2C1)C)OCC1OC1 | C23H20N2O4
reactant | Trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 3-[7-Methoxy-4-(2-methyl-quinolin-3-yloxy)-quinolin-6-yloxy]-propane-1,2-diol | 18 mg, yield 29% | COC1=C(C=C2C(=CC=NC2=C1)OC=1C(=NC2=CC=CC=C2C1)C)OCC(CO)O | C23H22N2O5
